US06399774B1
4-(1-Cyclopropyl-4,4-dimethyl-1,2,3,4-tetrahydroquinolin-6-yl-ethynyl-benzoic Acid (Compound 62, General Formula 7)
Following general procedure L and using 4-(1-cyclopropyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-6-ylethynyl)-benzoic acid ethyl ester Compound 61, 0.05 g, 0.13 mmol), 5 mL of ethanol and 5M sodium hydroxide solution (2 mL) followed by recrystallization from hot ethyl acetate, the title compound was obtained as a solid (0.030 g, 64%).

reactant | 4-(1-cyclopropyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-6-ylethynyl)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C#CC=1C=C2C(CCN(C2=CC1)C1CC1)(C)C)=O | C25H27NO2
reactant | sodium hydroxide | 5M, 2 mL | [OH-].[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | 1-Cyclopropyl-4,4-dimethyl-1,2,3,4-tetrahydroquinolin-6-yl-ethynyl-benzoic Acid | C1(CC1)N1CCC(C2=CC(=CC=C12)C=1C(=C(C(=O)O)C=CC1)C#C)(C)C | C23H23NO2
